US08053440B2
2-(4-(Dimethylamino)naphthalen-1-yl)quinazolin-4(3H)-one was synthesized from anthranilamide and 4-dimethylamino-naphthalene-1-carbaldehyde, using the method described for 5,7-dimethoxy-2-(pyridin-2-yl)quinazolin-4(3H)-one. 2-(4-(Dimethylamino)naphthalen-1-yl)quinazolin-4(3H)-one (240 mg, 69%) was isolated as a pale yellow solid. Selected data: MS (m/z): 316.08; MP 224-226° C.

reactant | anthranilamide | C(C=1C(N)=CC=CC1)(=O)N | C7H8N2O
reactant | 4-dimethylamino-naphthalene-1-carbaldehyde | CN(C1=CC=C(C2=CC=CC=C12)C=O)C | C13H13NO
reactant | 5,7-dimethoxy-2-(pyridin-2-yl)quinazolin-4(3H)-one | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=NC=CC=C1)=O | C15H13N3O3
product | 2-(4-(Dimethylamino)naphthalen-1-yl)quinazolin-4(3H)-one | 240 mg, 69% | CN(C1=CC=C(C2=CC=CC=C12)C1=NC2=CC=CC=C2C(N1)=O)C | C20H17N3O
